US04948781
10 g of 4-methyl-3-decen-5-ol are reacted with 12.1 g of allyl bromide analogously to Example 7. After the usual working-up, there are obtained 6.9 g of 5-allyloxy-4-methyl-3-decene, boiling point 51° C./0.03 Torr, nD20 =1.4447, odour: fatty, fruity, green, quince.

reactant | 4-methyl-3-decen-5-ol | 10 g | CC(=CCC)C(CCCCC)O | C11H22O
reactant | allyl bromide | 12.1 g | C(C=C)Br | C3H5Br
product | 5-allyloxy-4-methyl-3-decene | 6.9 g | C(C=C)OC(C(=CCC)C)CCCCC | C14H26O
